US06162808
i) 1-Bromomethyl-2,3-dimethylbenzene
A mixture of 1-hydroxymethyl-2,3-dimethylbenzene (ref) (5 g) and phosphorous tribromide (1.16 ml) in benzene (50 ml) was heated at reflux for 3 hours. The mixture was diluted with toluene, washed with water, dried (MgSO4) and evaporated. Yield 7 g.

reactant | 1-hydroxymethyl-2,3-dimethylbenzene | 5 g | OCC1=C(C(=CC=C1)C)C | C9H12O
reactant | phosphorous tribromide | 1.16 ml | P(Br)(Br)Br | Br3P
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 1-Bromomethyl-2,3-dimethylbenzene | BrCC1=C(C(=CC=C1)C)C | C9H11Br
